US08748624B2
STEP A: 2,4′,6-trichloro-[1,1′-biphenyl]-4-amine
The title compound was prepared as described in Example 159 substituting 4-bromo-3,5-dichloroaniline and (4-chlorophenyl)boronic acid for 4-bromo-3-chloroaniline and (4-(trifluoromethyl)phenyl)boronic acid, respectively.

reactant | 4-bromo-3,5-dichloroaniline | BrC1=C(C=C(N)C=C1Cl)Cl | C6H4BrCl2N
reactant | (4-chlorophenyl)boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | 4-bromo-3-chloroaniline | BrC1=C(C=C(N)C=C1)Cl | C6H5BrClN
reactant | (4-(trifluoromethyl)phenyl)boronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | 2,4′,6-trichloro-[1,1′-biphenyl]-4-amine | ClC1=C(C(=CC(=C1)N)Cl)C1=CC=C(C=C1)Cl | C12H8Cl3N
